US06235731B1
Concentrated hydrochloric acid(0.8 ml) was added to a stirred solution of N-[3-(4-phenylmethyl-2-oxopiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide (300 mg, 0.670 mmol) in ethanol (5.0 ml) at room temperature. After stirring at room temperature for 1 hour, the reaction mixture was concentrated in vacuo to give N-(3-(4-phenylmethyl-2-oxopiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride as an orange amorphous powder (345 mg, 98%).

reactant | hydrochloric acid | 0.8 ml | Cl | ClH
reactant | N-[3-(4-phenylmethyl-2-oxopiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.670 mmol, 300 mg | C1(=CC=CC=C1)CN1CC(N(CC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32)=O | C24H25N5O2S
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
product | N-(3-(4-phenylmethyl-2-oxopiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CN1CC(N(CC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32)=O | InChI=1S/C24H25N5O2S.2ClH/c30-22-17-27(16-18-6-2-1-3-7-18)12-13-28(22)11-5-10-25-24(31)20-14-19-15-26-21-8-4-9-23(32-20)29(19)21;;/h1-4,6-9,14-15H,5,10-13,16-17H2,(H,25,31);2*1H
